US09193704B2
2-bromo-4-hydroxybenzonitrile
To a solution of 2-bromo-4-fluoro-benzonitrile (2000 mg, 9.9995 mmol) in DMF (20 mL), potassium trimethylsilanolate (2565.7 mg, 19.999 mmol) was added portionwise and the reaction mixture stirred at room temperature for 1 h. The mixture was diluted with ethyl acetate (100 ml), washed with an aqueous saturated solution of ammonium chloride (100 ml) and brine (3×100 ml), dried over sodium sulphate and concentrated under vacuum to give the title compound (2000 mg) which was used in the next step without purification.

reactant | 2-bromo-4-fluoro-benzonitrile | 9.9995 mmol, 2000 mg | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
reactant | potassium trimethylsilanolate | 19.999 mmol, 2565.7 mg | C[Si]([O-])(C)C.[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-hydroxybenzonitrile | 2000 mg | BrC1=C(C#N)C=CC(=C1)O | C7H4BrNO
